US05138050
Ethyl formate (22.2 G, 0.3M) was added dropwise under nitrogen to hexahydro-1H-azepine (19.8 G, 0.2M) in such a way that a gentle reflux is maintained during the addition. The reaction mixture was then allowed to stir overnight. The volatile materials were evaporated at room temperature and ~20 mm. The residue was distilled in vacuo to give 1-(Formyl)-Hexahydro-1H-Azepine (bp. 56°-8°/3-4 mm; 84%).

reactant | Ethyl formate | 0.3M | C(=O)OCC | C3H6O2
reactant | hexahydro-1H-azepine | 0.2M | N1CCCCCC1 | C6H13N
product | 1-(Formyl)-Hexahydro-1H-Azepine | 84% | C(=O)N1CCCCCC1 | C7H13NO
